US05981521
1,2,3,4-Tetrahydro-1-methoxymethyl-6,7-dimethoxyisoquinoline was prepared by a procedure analogous to that described in example 4 for 1,2,3,4-tetrahydro-1-cyclopropyl- 6,7-dimethoxy-isoquinoline but substituting in the first step 2-methoxyacetyl chloride for cyclopropylcarbonyl chloride.

reactant | 1,2,3,4-tetrahydro-1-cyclopropyl- 6,7-dimethoxy-isoquinoline | C1(CC1)C1NCCC2=CC(=C(C=C12)OC)OC | C14H19NO2
reactant | 2-methoxyacetyl chloride | COCC(=O)Cl | C3H5ClO2
reactant | cyclopropylcarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | 1,2,3,4-Tetrahydro-1-methoxymethyl-6,7-dimethoxyisoquinoline | COCC1NCCC2=CC(=C(C=C12)OC)OC | C13H19NO3
